US05284661
Ethyl 2-ethyl-7-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxylate
To a solution of ethyl 2-ethyl-4-hydroxy-thieno[2,3-b]pyridine-5-carboxylate (1.00 g, 4 mmol) in 20 ml of DMF) was added sodium hydride (60% dispersion in oil, 160 mg) and the mixture was stirred for 10 minutes. To the reaction mixture was added 4-[2'-(N-trityltetrazol-5-yl)phenyl]benzyl bromide (2.23 g, 4 mmol) and the mixture was heated at 90° C. for 1 hour with stirring. The reaction mixture was poured into water followed by extraction with ethyl acetate. The organic layer was washed with water, dried (MgSO4), and evaporated to dryness. The resulting residue was purified by flash column chromatography on silica gel. The column was eluted with ethyl acetate/dichloromethane (1:1) to give 2.24 g (77%) of the title compound as white crystals.

reactant | ethyl 2-ethyl-4-hydroxy-thieno[2,3-b]pyridine-5-carboxylate | 4 mmol, 1.00 g | C(C)C1=CC=2C(=NC=C(C2O)C(=O)OCC)S1 | C12H13NO3S
reactant | sodium hydride | 160 mg | [H-].[Na+]
reactant | 4-[2'-(N-trityltetrazol-5-yl)phenyl]benzyl bromide | 4 mmol, 2.23 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(CBr)C=C1 | C33H25BrN4
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Ethyl 2-ethyl-7-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxylate | 2.24 g, 77% | C(C)C1=CC2=C(N(C=C(C2=O)C(=O)OCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)S1 | C45H37N5O3S
